US06964983B2
Synthesis of {2-Methyl-4-[2-(4′-trifluoromethyl-biphenyl-4-yl)-ethyl]-phenoxy}-acetic acid (Compound 25)
A solution of {2-methyl-4-[2-(4′-trifluoromethyl-biphenyl-4-yl)-vinyl]-phenoxy}-acetic acid (0.98 g, 2.4 mmol) in 100 ml of tetrahydrofuran was hydrogenated over 0.16 g of 20% palladium on carbon catalyst. The catalyst was removed by filtration, and the filtrate was evaporated. The crude product was recrystallized from aqueous acetonitrile. mp 174-176° C.; IR (thin film) cm−1: 1747, 1711, 1500, 1318, 1160, 1123; 400 MHz 1H NMR (DMSO-d6) δ 7.83 (d, 2H, J=8.1 Hz), 7.74 (d, 2H, J=8.3 Hz), 7.60 (d, 2H, J=6.5 Hz), 7.32 (d, 2H, J=8.3 Hz), 7.01 (d, 1H, J=2.0 Hz), 6.94 (dd, 1H, J=2.0, 8.3 Hz), 6.66 (d, 1H, J=8.3 Hz), 4.59 (s, 2H), 2.83 (m, 2H), 2.76 (m, 2H), 2.11 (s, 3H); MS m/z 413 (M−1). Anal. Calc'd for C24H21F3O3: C, 69.56; H, 5.11. found: C, 69.28; H, 4.96.

reactant | {2-methyl-4-[2-(4′-trifluoromethyl-biphenyl-4-yl)-vinyl]-phenoxy}-acetic acid | 2.4 mmol, 0.98 g | CC1=C(OCC(=O)O)C=CC(=C1)C=CC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C24H19F3O3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.16 g | [Pd] | Pd
product | {2-Methyl-4-[2-(4′-trifluoromethyl-biphenyl-4-yl)-ethyl]-phenoxy}-acetic acid | CC1=C(OCC(=O)O)C=CC(=C1)CCC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C24H21F3O3
